US07902181B2
c) (S)-tert-Butyl 1-amino-1-oxo-3-(4-(phenylsulfonyl)phenyl)propan-2-ylcarbamate
(S)-2-(tert-Butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoic acid (675 mg) was dissolved in DMF (8 mL) and to the solution was added N-ethylmorpholine (0.316 mL) followed by TBTU (802 mg). The reaction mixture was stirred at room temperature for 20 min then it was cooled to 0° C. Aqueous ammonia (0.379 mL) was added and the mixture was allowed to reach room temperature over 1 h. The reaction mixture was left to stir for a further 2 h. LCMS showed little change so further TBTU (400 mg) and ammonia (0.3 mL) were added, and the mixture stirred for a further 2 h. The reaction mixture was partitioned between ethyl acetate and diluted brine, and the aqueous phase was extracted into ethyl acetate twice more. The combined organic phases were dried over sodium sulphate, filtered and concentrated in vacuo to yield a pale gum. This was purified by flash silica chromatography, eluting with ethyl acetate to give the subtitle compound (450 mg) as a colourless gum.

reactant | (S)-2-(tert-Butoxycarbonylamino)-3-(4-(phenylsulfonyl)phenyl)propanoic acid | 675 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1 | C20H23NO6S
reactant | N-ethylmorpholine | 0.316 mL | C(C)N1CCOCC1 | C6H13NO
reactant | TBTU | 802 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 0.379 mL | N | H3N
reactant | TBTU | 400 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ammonia | 0.3 mL | N | H3N
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (S)-tert-Butyl 1-amino-1-oxo-3-(4-(phenylsulfonyl)phenyl)propan-2-ylcarbamate | 450 mg | NC([C@H](CC1=CC=C(C=C1)S(=O)(=O)C1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C20H24N2O5S
